US05123951
Mono-methyl methoxymalonate (9.8 grams, 0.07 mole), prepared in Example LVI (Compound 214) was reacted with thionyl chloride (15.74 grams, 0.13 mole) in 100 milliliters of methylene chloride in a manner similar to that described in Example LIII Part C, to give 11.06 grams (0.07 mole) of methyl (chlorocarbonyl)methoxyacetate. NMR analysis of the product indicated the following:

reactant | Mono-methyl methoxymalonate | 0.07 mole, 9.8 grams | COC(C(=O)OC)C(=O)[O-]
reactant | thionyl chloride | 0.13 mole, 15.74 grams | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 100 milliliters | C(Cl)Cl | CH2Cl2
product | methyl (chlorocarbonyl)methoxyacetate | 0.07 mole, 11.06 grams | ClC(=O)COCC(=O)OC | C5H7ClO4
